US06410585B1
5-{2-({2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[methyl(pentyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (100 mg, 0.18 mmol) and N-methylamylamine (29 mg, 0.29 mmol) according to Method C with HPLC purification to give the title compound (33 mg). 1H-NMR (400 MHz, CD3OD) d 7.76 (s, 1H), 7.5-7.15 (m, 6H), 7.04 (d, 1H), 5.02 (m, 1H), 4.81 (s, 2H), 4.28 (m, 1H), 3.25-2.7 (m, 9H), 1.10-1.5 (m, 15H), 0.89 (t, 3H); HRMS m/z 613.2982 (calc. of monoisotopic mass for C32H43N3O9 gives 613.2999).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | N-methylamylamine | 0.29 mmol, 29 mg | CNCCCCC | C6H15N
product | 5-{2-({2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[methyl(pentyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 33 mg | C(C)(C)(C)OC(=O)NC(C(=O)NC(CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)N(CCCCC)C)CC1=CC=CC=C1 | C32H43N3O9
